US06964966B2
Potassium hydroxide (15.45 g, 276 mmol) was added to the stirred solution of methylamine hydrochloride (18.54 g, 276 mmol) in methanol (100 ml) and stirring was continued for 30 min at 30° C. 1-benzyl-3-ethyl-3-methyl-4-piperidinone (8 g, 34.6 mmol) was added to the resulting mixture and stirred for 6 hr. Sodium cyanoborohydride (2.18 g, 34.6 mmol) was added to it and reaction mixture was stirred for 15 hr. The reaction mixture was concentrated to dryness, triturated with water, extracted with chloroform, dried (Na2SO4) and concentrated to give 1-benzyl-4-methylamino-3-ethyl-3-methylpiperidine. Yield 6 g (67%), C16H26N2, m/z 247 (M+1).

reactant | Potassium hydroxide | 276 mmol, 15.45 g | [OH-].[K+]
reactant | methylamine hydrochloride | 276 mmol, 18.54 g | Cl.CN
reactant | 1-benzyl-3-ethyl-3-methyl-4-piperidinone | 34.6 mmol, 8 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)CC | C15H21NO
reactant | Sodium cyanoborohydride | 34.6 mmol, 2.18 g | C(#N)[BH3-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 1-benzyl-4-methylamino-3-ethyl-3-methylpiperidine | C(C1=CC=CC=C1)N1CC(C(CC1)NC)(C)CC | C16H26N2
